US08686002B2
3-(2,6-Dimethoxybenzyl)-7-pyridin-3-yl-3,4-dihydroquinazolin-2-aminium acetate
Synthesis was performed according to EXAMPLE 82 from 7-bromo-3-(2,6-dimethoxybenzyl)-3,4-dihydroquinazolin-2-amine and 3-[1.3.2]-dioxaborinan-2-ylpyridine in a CEM microwave at 100° C. (120 watt) for 120 minutes.

reactant | 7-bromo-3-(2,6-dimethoxybenzyl)-3,4-dihydroquinazolin-2-amine | BrC1=CC=C2CN(C(=NC2=C1)N)CC1=C(C=CC=C1OC)OC | C17H18BrN3O2
reactant | 3-[1.3.2]-dioxaborinan-2-ylpyridine | O1B(OCCC1)C=1C=NC=CC1 | C8H10BNO2
product | 3-(2,6-Dimethoxybenzyl)-7-pyridin-3-yl-3,4-dihydroquinazolin-2-aminium acetate | C(C)(=O)[O-].COC1=C(CN2C(=NC3=CC(=CC=C3C2)C=2C=NC=CC2)[NH3+])C(=CC=C1)OC | InChI=1S/C22H22N4O2.C2H4O2/c1-27-20-6-3-7-21(28-2)18(20)14-26-13-17-9-8-15(11-19(17)25-22(26)23)16-5-4-10-24-12-16;1-2(3)4/h3-12H,13-14H2,1-2H3,(H2,23,25);1H3,(H,3,4)
